US09238640B2
To a solution of 5-bromo-1H-indole-2-carboxylic acid (2.40 g, 10.0 mmol) in THF (100 mL) were added EDCl (2.11 g, 30.0 mmol), HOBt (1.49 g, 11.0 mmol). The reaction mixture was stirred at room temperature for 10 minutes. Then, a solution of N,N-dimethyl amine (2.0 M solution in THF, 15 mL, 30.0 mmol) was added. The mixture was stirred for 16 hours at room temperature. Solvent was evaporated, the residue was taken in ethyl acetate (200 mL), and water (200 mL) was added. The organic phase was separated; the aqueous phase was extracted with ethyl acetate (200 mL). The combined organic phase was washed with water (100 mL), then brine (100 mL), and dried over anhydrous sodium sulfate. Solvent was evaporated and dried under vacuum to give 5-bromo-1H-indole-2-carboxylic acid dimethylamide as an off-white solid. Yield: 2.56 g (96%).

reactant | 5-bromo-1H-indole-2-carboxylic acid | 10.0 mmol, 2.40 g | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | EDCl | 30.0 mmol, 2.11 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 11.0 mmol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethyl amine | 30.0 mmol, 2.0 M, 15 mL | CNC | C2H7N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-bromo-1H-indole-2-carboxylic acid dimethylamide | CN(C(=O)C=1NC2=CC=C(C=C2C1)Br)C | C11H11BrN2O
